US07723333B2
2-(4-Phenoxybutyl)-1H-isoindole-1,3(2H)-dione
A mixture of N-(4-bromobutyl)phthalimide) (2.00 g, 7.09 mmol), phenol (0.67 g, 7.09) and K2CO3 (1.96 g, 14.18 mmoml) in dry MeCN (30 ml) was stirred at rt for 66 h. The reaction mixture was then warmed to 50° C. for 20 h before more phenol (0.33 mg, 3.54 mmol) was added and the resulting mixture was warmed at reflux. After 4 h EtOAc was added, the mixture was washed with brine, then 1N NaOH, and brine again before evaporated the organic phase to dryness to give the title compound (1.11 g, 53%) which was used without further purification. 1H NMR (500 MHz CDCl3): δ 7-90-7.83 (m, 2H), 7.76-7.70 (m, 2H), 7.28 (t, 2H), 6.93 (t, 1H), 6.89 (d, 2H), 4.01 (t, 2H), 3.79 (t, 2H), 1.96-1.82 (m, 4H); Mass Spectrum: M+H+ 296.

reactant | N-(4-bromobutyl)phthalimide | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | phenol | 0.67 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 1.96 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenol | 3.54 mmol, 0.33 mg | C1(=CC=CC=C1)O | C6H6O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeCN | 30 ml | CC#N | C2H3N
product | 2-(4-Phenoxybutyl)-1H-isoindole-1,3(2H)-dione | 1.11 g, 53% | O(C1=CC=CC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C18H17NO3
